US05866576
1-(16,17-Dihydroxyheptadecyl)-3,7-dimethylxanthine (1.10 g, 2.44 mmol) was stirred with HBr (3.50 mL of a 30% solution in acetic acid, 17.1 mmol) for 4 hours. The mixture was then added over 10 minutes to water (50 mL),and NaHCO3 (10 g) and stirred for 30 minutes. The reaction mixture was extracted with dichloromethane (3×30 mL), the combined organic phases were dried using magnesium sulfate and the solvent was evaporated to obtain a residue of 1-(16-acetoxy-17-bromoheptadecyl)-3,7-dimethylxanthine.

reactant | 1-(16,17-Dihydroxyheptadecyl)-3,7-dimethylxanthine | 2.44 mmol, 1.10 g | OC(CCCCCCCCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C24H42N4O4
reactant | HBr | Br | BrH
reactant | water | 50 mL | O | H2O
reactant | NaHCO3 | 10 g | C(=O)(O)[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(16-acetoxy-17-bromoheptadecyl)-3,7-dimethylxanthine | C(C)(=O)OC(CCCCCCCCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C26H43BrN4O4
